US05212187
N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-N"-[3-[N-[3-phenyl-3-(2-pyridyl)propyl]-N-methylamino]propyl]guanidine
Preparation is effected analogously to Example 1, using 0.85 g (3 mmol) of N-methyl-N-[3-phenyl-3-(2-pyridyl)propyl]-1,3-propanediamine and 1.12 g (3 mmol) of N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-O-phenyl-isourea as starting materials. Working up by chromatography analogously to Example 1 yields the purified title compound in the form of a dry foam; MS (+FAB method): m/z (rel. int.[%])=565 ([M+H]+, 2), 196 (100); IR (KBr): 2162 cm-1 (C≡N). For analytical purposes a sample is converted into the maleic acid salt and recrystallised from ether/isopropanol; m.p.: 110°-112° C. with decomposition.

reactant | N-methyl-N-[3-phenyl-3-(2-pyridyl)propyl]-1,3-propanediamine | 3 mmol, 0.85 g | CN(CCCN)CCC(C1=NC=CC=C1)C1=CC=CC=C1 | C18H25N3
reactant | N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-O-phenyl-isourea | 3 mmol, 1.12 g | C(#N)NC(OC1=CC=CC=C1)=NCCSCC=1N=C(SC1)NC(=N)N | C15H17N7OS2
product | N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-N"-[3-[N-[3-phenyl-3-(2-pyridyl)propyl]-N-methylamino]propyl]guanidine | C(#N)NC(=NCCCN(C)CCC(C1=NC=CC=C1)C1=CC=CC=C1)NCCSCC=1N=C(SC1)NC(=N)N | C27H36N10S2
